US08530470B2
TBTU (148 mg, 0.46 mmol) was added to a stirred solution of 2-((R)-2-methylmorpholino)-4-oxo-8-(1-phenylpyrrolidin-2-yl)-4H-chromene-6-carboxylic acid (80 mg, 0.18 mmol), DIPEA (0.080 mL, 0.46 mmol) dissolved in DMA (2 mL) under nitrogen. The resulting solution was stirred at room temperature for 30 min. Morpholine (0.048 mL, 0.55 mmol) was added to the mixture and stirred at room temperature for 1 h. The reaction mixture was purified by preparative HPLC. The fractions containing the desired compound were evaporated to dryness to afford 2-((R)-2-methylmorpholino)-6-(morpholine-4-carbonyl)-8-(1-phenylpyrrolidin-2-yl)-4H-chromen-4-one (60 mg, 65%) as a gummy solid.

reactant | TBTU | 0.46 mmol, 148 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 2-((R)-2-methylmorpholino)-4-oxo-8-(1-phenylpyrrolidin-2-yl)-4H-chromene-6-carboxylic acid | 0.18 mmol, 80 mg | C[C@H]1OCCN(C1)C=1OC2=C(C=C(C=C2C(C1)=O)C(=O)O)C1N(CCC1)C1=CC=CC=C1 | C25H26N2O5
reactant | DIPEA | 0.46 mmol, 0.080 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Morpholine | 0.55 mmol, 0.048 mL | N1CCOCC1 | C4H9NO
solvent | DMA | 2 mL | CC(=O)N(C)C | C4H9NO
product | 2-((R)-2-methylmorpholino)-6-(morpholine-4-carbonyl)-8-(1-phenylpyrrolidin-2-yl)-4H-chromen-4-one | 60 mg, 65% | C[C@H]1OCCN(C1)C=1OC2=C(C=C(C=C2C(C1)=O)C(=O)N1CCOCC1)C1N(CCC1)C1=CC=CC=C1 | C29H33N3O5
